US04110472
3-Diphenylmethyl-5-(3,4-dichloro-phenoxymethyl)-oxazolidine from 3-diphenylmethyl-5-chloromethyl-oxazolidine and sodium 3,4-dichlorophenolate; this product is hydrolysed with alcoholic-aqueous hydrochloric acid to give 1-(3,4-dichlorophenoxy)-2-hydroxy-3-diphenylmethylaminopropane hydrochloride with a melting point of 180°-184°.

reactant | 3-Diphenylmethyl-5-(3,4-dichloro-phenoxymethyl)-oxazolidine | C1(=CC=CC=C1)C(N1COC(C1)COC1=CC(=C(C=C1)Cl)Cl)C1=CC=CC=C1 | C23H21Cl2NO2
reactant | 3-diphenylmethyl-5-chloromethyl-oxazolidine | C1(=CC=CC=C1)C(N1COC(C1)CCl)C1=CC=CC=C1 | C17H18ClNO
reactant | sodium 3,4-dichlorophenolate | ClC=1C=C(C=CC1Cl)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 1-(3,4-dichlorophenoxy)-2-hydroxy-3-diphenylmethylaminopropane hydrochloride | Cl.ClC=1C=C(OCC(CNC(C2=CC=CC=C2)C2=CC=CC=C2)O)C=CC1Cl | InChI=1S/C22H21Cl2NO2.ClH/c23-20-12-11-19(13-21(20)24)27-15-18(26)14-25-22(16-7-3-1-4-8-16)17-9-5-2-6-10-17;/h1-13,18,22,25-26H,14-15H2;1H
